US05455072
Methyl 22-tetracosenoate may be synthesized following Bergbreiter and Whitesides, previously cited in Example 1, Procedure 3, Step C, except that the copper reagent is generated from 12-bromododecene and coupled with the methyl ester of 11-=bromoundecanoic acid to yield methyl 22-tricosenoate.

reactant | Methyl 22-tetracosenoate | C(CCCCCCCCCCCCCCCCCCCCC=CC)(=O)OC | C25H48O2
reactant | 12-bromododecene | BrCCCCCCCCCCC=C | C12H23Br
reactant | bromoundecanoic acid | BrC(C(=O)O)CCCCCCCCC | C11H21BrO2
catalyst | copper | [Cu] | Cu
product | methyl 22-tricosenoate | C(CCCCCCCCCCCCCCCCCCCCC=C)(=O)OC | C24H46O2
